US07638515B2
12.6 g (45.9 mmol) of ethyl-2-oxo-3-(1-phenylcyclohexyl)-propionate (WO9854159) and 19.9 ml (138 mmol) of (trifluoromethyl)-trimethylsilane in 215 ml of THF are cooled to −70° C. and mixed with 8.6 ml of a 1 molar tetrabutylammonium fluoride solution in THF. The reaction mixture is allowed to heat over 18 hours to room temperature and then poured into saturated sodium chloride solution. It is extracted several times with ethyl acetate, washed with saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation in a vacuum. After chromatographic purification on silica gel (hexane/ethyl acetate 20%), 13.1 g of ethyl-2-hydroxy-3-(1-phenylcyclohexyl)-2-(trifluoromethyl)-propionate is obtained as a yellow oil. A solution of 3.33 g (87.7 mmol) of lithium aluminum hydride in 173 ml of THF is added in drops to 13.1 g (38.1 mmol) of ester in 174 ml of THF at 0° C., and it is stirred for 16 hours at room temperature. 20 ml of saturated ammonium chloride solution is carefully added to the batch at 0° C., and it is stirred vigorously for 15 more minutes. It is extracted several times with ethyl acetate, washed with saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation in a vacuum. After chromatographic purification on silica gel (hexane/ethyl acetate 0%-33%), 6.1 g of 3-(1-phenyl-cyclohexyl)-2-(trifluoromethyl)-propane-1,3-diol is obtained. 15.7 ml (113 mmol) of triethylamine is added to 6.1 g (20.2 mmol) of diol in 245 ml of dichloromethane and 79 ml of DMSO, and 13.8 g (87 mmol) of pyridine SO3 complex is added in portions over 10 minutes. It is stirred for 3 hours, and saturated ammonium chloride solution is added. The mixture is stirred for another 15 minutes, the phases are separated, and it is extracted with dichloromethane. It is washed with water and dried on sodium sulfate. The solvent is removed in a vacuum, and after chromatographic purification on silica gel (hexane/ethyl acetate, 0-33%), the desired product is obtained quantitatively.

reactant | ethyl-2-oxo-3-(1-phenylcyclohexyl)-propionate | 45.9 mmol, 12.6 g | C(C)OC(C(CC1(CCCCC1)C1=CC=CC=C1)=O)=O | C17H22O3
reactant | (trifluoromethyl)-trimethylsilane | 138 mmol, 19.9 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 1 molar | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | 215 ml | C1CCOC1 | C4H8O
product | ethyl-2-hydroxy-3-(1-phenylcyclohexyl)-2-(trifluoromethyl)-propionate | 13.1 g | C(C)OC(C(CC1(CCCCC1)C1=CC=CC=C1)(C(F)(F)F)O)=O | C18H23F3O3
